US05248825
Dissolve 3,4,5-trimethoxybenzoyl chloride (2.3 g, 10 mmol) and N,O-dimethylhydroxylamine hydrochloride (1.10 g, 11 mmol) in ethanol-free chloroform at room temperature. Cool the solution to 0° C. and add pyridine (1.85 g, 22 mmol). Stir at ambient temperature for 1 hour and evaporate the solvent in vacuo. Partition the residue between aqueous sodium chloride and a 1:1 mixture of ethyl ether and methylene chloride. Separate the organic phase, dry (Na2SO4), and evaporate the solvent in vacuo to yield an oil. Filter the oil through silica gel eluting with 65% ethyl acetate/hexane to yield 2.5 g of N-methoxy-N-methyl-(3,4,5-trimethoxy)benzamide.

reactant | 3,4,5-trimethoxybenzoyl chloride | 10 mmol, 2.3 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 11 mmol, 1.10 g | Cl.CNOC
reactant | pyridine | 22 mmol, 1.85 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | N-methoxy-N-methyl-(3,4,5-trimethoxy)benzamide | 2.5 g | CON(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C | C12H17NO5
